US06255333B1
4-Bromoethynyl-1-(2,6-dichloro-4-trifluoromethylphenyl)-3-trifluoromethylpyrazole
To a stirred solution of 1-(2,6-dichloro-4-trifluoromethylphenyl)4ethynyl-3-trifluoromethylpyrazole (3.1 g) in acetone (25 ml) was added N-bromosuccinimide (1.4 g) and silver nitrate (0. 14 g). Stirring was continued at room temperature for 2 hours. The reaction mixture was evaporated and the residue partitioned between ether and water. The organic layer was separated, dried and evaporated. The residue was purified by column chromatography on silica gel (10 g) eluted with hexane and then dichloromethane: hexane (1:1). Combination and evaporation of appropriate fractions, followed by crystallisation from hexane, gave the title compound as a white solid m.p. 92-94° C.

reactant | 1-(2,6-dichloro-4-trifluoromethylphenyl)4ethynyl-3-trifluoromethylpyrazole | 3.1 g | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)N1N=C(C(=C1)C#C)C(F)(F)F | C13H4Cl2F6N2
reactant | N-bromosuccinimide | 1.4 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | acetone | 25 ml | CC(=O)C | C3H6O
catalyst | silver nitrate | 14 g | [N+](=O)([O-])[O-].[Ag+]
product | 4-Bromoethynyl-1-(2,6-dichloro-4-trifluoromethylphenyl)-3-trifluoromethylpyrazole | BrC#CC=1C(=NN(C1)C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C(F)(F)F | C13H3BrCl2F6N2
